* Created by KLayout
*** My special header ***

* cell sram_2w2b_top
* pin A0
* pin DIN0
* pin DIN1
* pin DOUT0
* pin DOUT1
* pin PCB
* pin VDD
* pin VSS
* pin WE
* pin WLE
.SUBCKT sram_2w2b_top A0 DIN0 DIN1 DOUT0 DOUT1 PCB VDD VSS WE WLE
* device instance $1 r0 *1 -77.5,208.9 PMOS
XM$1 VDD \$32 \$33 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $2 r0 *1 -94.7,208.9 PMOS
XM$2 VDD WLE \$32 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $3 r0 *1 -105.4,208.9 PMOS
XM$3 VDD A0 \$32 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $4 r0 *1 83.4,207 PMOS
XM$4 \$16 PCB VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $5 r0 *1 6.7,199.9 PMOS
XM$5 \$25 \$28 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $6 r0 *1 12.3,199.9 PMOS
XM$6 VDD \$25 \$28 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $7 r0 *1 6.7,207.9 PMOS
XM$7 VDD \$31 \$30 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $8 r0 *1 12.3,207.9 PMOS
XM$8 VDD \$30 \$31 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $9 r0 *1 -19.5,199.9 PMOS
XM$9 \$24 \$27 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $10 r0 *1 -13.9,199.9 PMOS
XM$10 VDD \$24 \$27 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $11 r0 *1 -19.5,207.9 PMOS
XM$11 VDD \$34 \$29 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $12 r0 *1 -13.9,207.9 PMOS
XM$12 VDD \$29 \$34 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $13 r0 *1 -77.5,198.9 PMOS
XM$13 \$20 \$23 VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $14 r0 *1 -94.7,198.9 PMOS
XM$14 \$23 WLE VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $15 r0 *1 -105.4,198.9 PMOS
XM$15 \$23 \$21 VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $16 r0 *1 -71.9,98.9 PMOS
XM$16 VDD WE \$9 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $17 r0 *1 19.7,93.4 PMOS
XM$17 DIN1 \$9 \$15 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $18 r0 *1 85.4,187.9 PMOS
XM$18 \$15 PCB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $19 r0 *1 6.7,93.4 PMOS
XM$19 \$14 \$9 \$8 VDD PMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $20 r0 *1 10.7,93.4 PMOS
XM$20 \$8 DIN1 VDD VDD PMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $21 r0 *1 -17.9,93.4 PMOS
XM$21 VDD DIN0 \$7 VDD PMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $22 r0 *1 -13.9,93.4 PMOS
XM$22 \$7 \$9 \$13 VDD PMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $23 r0 *1 62.2,187.9 PMOS
XM$23 \$13 PCB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $24 r0 *1 -26.9,93.4 PMOS
XM$24 \$12 \$9 DIN0 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $25 r0 *1 91.6,106.6 PMOS
XM$25 DOUT1 \$14 VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $26 r0 *1 61.8,106.6 PMOS
XM$26 DOUT0 \$13 VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $27 r0 *1 -118.6,198.9 PMOS
XM$27 \$21 A0 VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $28 r0 *1 68,187.9 PMOS
XM$28 \$12 PCB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $29 r0 *1 91.2,187.9 PMOS
XM$29 \$14 PCB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $30 r0 *1 -79.2,236.5 NMOS
XM$30 \$33 \$32 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $31 r0 *1 -19.5,230 NMOS
XM$31 \$29 \$34 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $32 r0 *1 -13.9,230 NMOS
XM$32 VSS \$29 \$34 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $33 r0 *1 -23,236.9 NMOS
XM$33 \$29 \$33 \$12 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $34 r0 *1 -10.5,236.9 NMOS
XM$34 \$34 \$33 \$13 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $35 r0 *1 6.7,230 NMOS
XM$35 \$30 \$31 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $36 r0 *1 12.3,230 NMOS
XM$36 VSS \$30 \$31 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $37 r0 *1 3.2,236.9 NMOS
XM$37 \$30 \$33 \$14 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $38 r0 *1 15.7,236.9 NMOS
XM$38 \$31 \$33 \$15 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $39 r0 *1 83.4,229.1 NMOS
XM$39 \$16 PCB VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $40 r0 *1 -23,170.9 NMOS
XM$40 \$12 \$20 \$24 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $41 r0 *1 -10.5,170.9 NMOS
XM$41 \$13 \$20 \$27 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $42 r0 *1 -19.5,177.8 NMOS
XM$42 \$24 \$27 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $43 r0 *1 -13.9,177.8 NMOS
XM$43 \$27 \$24 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $44 r0 *1 -94.7,232.5 NMOS
XM$44 \$32 A0 \$35 VSS NMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $45 r0 *1 -94.7,236.5 NMOS
XM$45 \$35 WLE VSS VSS NMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $46 r0 *1 -120.6,173.3 NMOS
XM$46 VSS A0 \$21 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $47 r0 *1 3.2,170.9 NMOS
XM$47 \$14 \$20 \$25 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $48 r0 *1 15.7,170.9 NMOS
XM$48 \$15 \$20 \$28 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $49 r0 *1 6.7,177.8 NMOS
XM$49 \$25 \$28 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $50 r0 *1 12.3,177.8 NMOS
XM$50 \$28 \$25 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $51 r0 *1 -79.2,171.3 NMOS
XM$51 VSS \$23 \$20 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $52 r0 *1 -26.9,116.6 NMOS
XM$52 \$12 WE DIN0 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $53 r0 *1 60.1,83 NMOS
XM$53 VSS \$13 DOUT0 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $54 r0 *1 93.3,83 NMOS
XM$54 VSS \$14 DOUT1 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $55 r0 *1 -13.9,116.6 NMOS
XM$55 \$7 WE \$13 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $56 r0 *1 -71.9,76.8 NMOS
XM$56 VSS WE \$9 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $57 r0 *1 -94.7,171.3 NMOS
XM$57 VSS WLE \$22 VSS NMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $58 r0 *1 -94.7,175.3 NMOS
XM$58 \$22 \$21 \$23 VSS NMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $59 r0 *1 10.7,71.3 NMOS
XM$59 \$8 DIN1 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $60 r0 *1 -17.9,71.3 NMOS
XM$60 VSS DIN0 \$7 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $61 r0 *1 6.7,116.6 NMOS
XM$61 \$14 WE \$8 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $62 r0 *1 65,165.9 NMOS
XM$62 \$13 \$16 \$12 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $63 r0 *1 19.7,116.6 NMOS
XM$63 DIN1 WE \$15 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $64 r0 *1 88.2,165.9 NMOS
XM$64 \$15 \$16 \$14 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS sram_2w2b_top
